US07705018B2
To pyridine (2.1 ml, 26 mmol) in EtOH (60 ml) was added 2-bromo-1-(2-chlorophenyl)ethanone (6.1 g, 26 mmol) in EtOH (40 ml) dropwise over 10 min. The resulting mixture was heated at 60-70° C. for 1 hour and cooled to room temperature. To the mixture were added pyridine (1.25 ml), 2-amino-3-chlorobenzaldehyde (3.72 g, 24.0 mmol) and DMAP (0.05 g, cat.). The mixture was heated at reflux for 48 hrs. The reaction mixture was cooled to room temperature and pyrrolidine (4.60 ml, 55.0 mmol) was added. After heating at. reflux overnight, the resulting mixture was concentrated. The residue was partitioned between saturated aqueous NaHCO3 and CH2Cl2. The combined organic layers were dried, concentrated. Flash chromatography of the residue over silica gel, using 3:7 EtOAc-hexane, gave 8-chloro-2-(2-chlorophenyl)-quinolin-3-amine, 1H-NMR (DMSO-d6) δ 7.67 (d, J=8.0 Hz, 1H), 7.63 (d, J=8.0 Hz, 1H), 7.50-7.57 (m, 3H), 7.46 (d, J=8.0 Hz, 1H), 7.42 (s, 1H), 7.39 (t, J=8.0 Hz, 1H), 5.32 (br, 2H). Mass Spectrum (ESI) m/e=289.0 (M+1).

reactant | pyridine | 26 mmol, 2.1 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-bromo-1-(2-chlorophenyl)ethanone | 26 mmol, 6.1 g | BrCC(=O)C1=C(C=CC=C1)Cl | C8H6BrClO
reactant | pyridine | 1.25 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-3-chlorobenzaldehyde | 24.0 mmol, 3.72 g | NC1=C(C=O)C=CC=C1Cl | C7H6ClNO
reactant | pyrrolidine | 55.0 mmol, 4.60 ml | N1CCCC1 | C4H9N
solvent | EtOH | 60 ml | CCO | C2H6O
solvent | EtOH | 40 ml | CCO | C2H6O
catalyst | DMAP | 0.05 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 8-chloro-2-(2-chlorophenyl)-quinolin-3-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)N | C15H10Cl2N2
